US06936608B2
b) 7-Bromoimidazo[1,2-b][1,2,4]triazine
To a solution of imidazo[1,2-b][1,2,4]triazine (0.206 g, 1.715 mmol), in acetic acid (5 ml) was added sodium acetate (0.211 g, 2.27 mmol), then, dropwise over 3 min, bromine (114.8 μl, 2.23 mmol). The solution was stirred at room temperature for 30 min, then partitioned between saturated aqueous NaHCO3 (200 ml) and ethyl acetate (200 ml). The organic extracts were dried (Na2SO4), silica gel added and evaporated in vacuo. The residue was purified by chromatography (silica gel, 50% EtOAc/isohexane) to afford 0.3147 g (74%) of the title compound: 1H NMR (360 MHz, CDCl3) δ 7.25 (1H, s), 8.05 (1H, s), 8.48-8.50 (1H, m); MS (ES+) m/z 199.

reactant | imidazo[1,2-b][1,2,4]triazine | 1.715 mmol, 0.206 g | N=1N2C(N=CC1)=NC=C2 | C5H4N4
reactant | sodium acetate | 2.27 mmol, 0.211 g | C(C)(=O)[O-].[Na+]
reactant | bromine | 2.23 mmol, 114.8 μl | BrBr | Br2
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 7-Bromoimidazo[1,2-b][1,2,4]triazine | 0.3147 g, 74% | BrC1=CN=C2N1N=CC=N2 | C5H3BrN4
